### PR TITLE
feat: natural sums and embeddings

### PR DESCRIPTION
**Pull request by vihdzp**

### CODE REVIEW

File: CombinatorialGames/NatOrdinal/OrderType.lean [hunk 1]
```diff
@@ -0,0 +1,233 @@
...
+theorem Sum.swap_surjective : Function.Surjective (α := α ⊕ β) Sum.swap :=
+  Sum.swap_leftInverse.surjective
+
+variable [Preorder α] [Preorder β]
+
+theorem Monotone.rangeFactorization {f : α → β} (hf : Monotone f) :
+    Monotone (rangeFactorization f) :=
+  fun _ _ h ↦ hf h
+
+theorem Sum.swap_monotone : Monotone (α := α ⊕ β) Sum.swap := by
```
Comment (plp127) [inline CombinatorialGames/NatOrdinal/OrderType.lean]: See also `OrderIso.sumComm`

File: CombinatorialGames/NatOrdinal/OrderType.lean [hunk 2]
```diff
@@ -0,0 +1,233 @@
...
+  mpr h := by
+    by_contra! hx
+    simpa using h (enum (· < ·) ⟨x, hx⟩)
+
+theorem exists_orderIso_sum {α : Type u} [LinearOrder α] [WellFoundedLT α]
+    {x : Ordinal} (hx : x ≤ typeLT α) :
+    ∃ (β : Type u) (_ : LinearOrder β) (_ : WellFoundedLT β)
+      (γ : Type u) (_ : LinearOrder γ) (_ : WellFoundedLT γ)
+      (_ : β ⊕ₗ γ ≃o α), typeLT β = x := by
+  obtain rfl | hx := hx.eq_or_lt
```
Comment (plp127) [inline CombinatorialGames/NatOrdinal/OrderType.lean]: Why the cases? Can't we unconditionally just use `x.ToType` and `(typeLT α - x).ToType`?

File: CombinatorialGames/NatOrdinal/OrderType.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/NatOrdinal/OrderType.lean]: I've opened https://github.com/leanprover-community/mathlib4/pull/43598 putting this in Mathlib.

File: CombinatorialGames/NatOrdinal/OrderType.lean (hunk 2 above)
Comment (vihdzp) [reply CombinatorialGames/NatOrdinal/OrderType.lean]: I've golfed the theorem using this.
